US05807887
The same procedure as in Reference Example 1 (3) is repeated, except that 1,1-diethoxy-2-(3,5-difluoro4-methylphenylthio)ethane is substituted for the 1,1-diethoxy-2-(3-fluoro-4-methylphenylthio)ethane, to obtain 4,6-difluoro-5-methylbenzo[b]thiophene.

reactant | 1,1-diethoxy-2-(3,5-difluoro4-methylphenylthio)ethane | C(C)OC(CSC1=CC(=C(C(=C1)F)C)F)OCC | C13H18F2O2S
reactant | 1,1-diethoxy-2-(3-fluoro-4-methylphenylthio)ethane | C(C)OC(CSC1=CC(=C(C=C1)C)F)OCC | C13H19FO2S
product | 4,6-difluoro-5-methylbenzo[b]thiophene | FC1=C(C(=CC=2SC=CC21)F)C | C9H6F2S
